Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Motrin
 
Attending: ___.
 
Chief Complaint:
Lower Extremity Edema 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
HPI(4): Mr. ___ is a ___ male with history of T2DM,
HTN, and alcohol use disorder who presents with pedal edema. 

Patient was sent in from the ___ office for evaluation of
bilateral lower extremity swelling. He has had the swelling for
about a week. They obtained a d-dimer in clinic which was
elevated at 1100. He denies any shortness of breath, chest pain,
pain with breathing, racing heartbeat, or sense that he is going
to pass out. He reports the swelling is affected both legs
equally. No fevers or chills.

Was sectioned by wife due to alcohol abuse in early ___. Was
placed on shackles on ___ for 12  Hours. It was very tender
at that point. Following days, there was a lot of discomfort but
didn't see nay bruises or rash for days. However, a couple of
days ago, he started noticing swelling and erythematous/bluish
discoloration medially b/l. He was seen in clinic on ___ for
same and was started on Bactrim for presumed cellulitis of
bilateral ___. 

In the ED: 
labs 
   22:55    Osmolality, Potassium, Sodium, Creatinine, Urine,
Chloride, Urinalysis + Culture - UA negative
   21:26    BNP, Chem-7 - Cr 1.3, BNP 40
rads 
   23:32    CHEST (PA & LAT) 
   21:29    ___ DUP EXTEXT BIL (MAP/DVT) - negative
___
___ 00:25 IVF  NS Started 150 mL/hr 
___ 00:25 PO/NG Atorvastatin 40 ___ decision-making: This patient has bilateral lower
extremity edema, and given his elevated d-dimer we are obtaining
bilateral ultrasounds to screen for DVTs. In addition, we are
obtaining a BNP and a Chem-7 to evaluate for evidence of heart
failure or renal failure to explain his bilateral edema. 
- If the above testing is negative, patient can be discharged
home with instructions for close follow-up with primary care
doctor and use of compression stockings for likely venous 
stasis.

Dispo: This patient has developed an acute kidney injury, with a
doubling of his creatinine in the past 6 weeks, and this is the
likely explanation for his bilateral pedal edema. We will admit
this patient to medicine for workup of his acute kidney injury
and we are initiating gentle IV fluids at this time.

======

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
PAST MEDICAL / SURGICAL HISTORY:
Hypertension, essential 
Hyperlipidemia 
Elevated PSA 
CAD (coronary artery disease) 
Vasovagal near syncope 
Lipoma of lower extremity 
Pain of left sacroiliac joint 
Normocytic anemia 
Vitamin D insufficiency 
Cancer of prostate with low recurrence risk (stage T1-2a and
___ < 7 and PSA < 10) 
Diabetes type 2, uncontrolled 
Refused influenza vaccine 
Overweight (BMI 25.0-29.9) 
Abnormal stress electrocardiogram test using treadmill 
Low-tension glaucoma, bilateral, moderate stage 
Syncope 
Colon adenomas (colonoscopy due ___ 

 
Social History:
___
Family History:
FAMILY HISTORY: Reviewed and found to be not relevant to this
illness/reason for hospitalization.
sister - DM, ___

 
Physical Exam:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema. Oropharynx without
visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly
symmetric
SKIN: No obvious rashes or ulcerations noted on cursory skin 
exam
NEURO: Alert, oriented, face symmetric, speech fluent, moves all
limbs
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Admit Labs 

___ 06:22AM BLOOD WBC-4.3 RBC-3.66* Hgb-11.2* Hct-33.9* 
MCV-93 MCH-30.6 MCHC-33.0 RDW-13.6 RDWSD-46.2 Plt ___
___ 06:22AM BLOOD Neuts-35.6 ___ Monos-16.3* 
Eos-2.3 Baso-0.5 Im ___ AbsNeut-1.53* AbsLymp-1.94 
AbsMono-0.70 AbsEos-0.10 AbsBaso-0.02
___ 09:36PM BLOOD Glucose-191* UreaN-32* Creat-1.6* Na-136 
K-4.2 Cl-97 HCO3-21* AnGap-18
___ 06:22AM BLOOD Albumin-3.8 Calcium-9.1 Phos-3.9 Mg-1.8
___ 09:36PM BLOOD ALT-12 AST-12 AlkPhos-74 TotBili-<0.2

Images 
CXR 
IMPRESSION:  
  
No acute intrathoracic abnormality.  Specifically, no evidence 
of pulmonary 
edema. 

FINDINGS:  
  
There is normal compressibility, flow, and augmentation of the 
bilateral 
common femoral, femoral, and popliteal veins. Normal color flow 
and 
compressibility are demonstrated in the tibial veins 
bilaterally.  Normal 
color flow is demonstrated in the bilateral peroneal veins. 
  
There is normal respiratory variation in the common femoral 
veins bilaterally. 
  
IMPRESSION:  
  
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 
  
Discharge Labs 

___ 06:22AM BLOOD WBC-4.3 RBC-3.66* Hgb-11.2* Hct-33.9* 
MCV-93 MCH-30.6 MCHC-33.0 RDW-13.6 RDWSD-46.2 Plt ___
___ 06:22AM BLOOD Neuts-35.6 ___ Monos-16.3* 
Eos-2.3 Baso-0.5 Im ___ AbsNeut-1.53* AbsLymp-1.94 
AbsMono-0.70 AbsEos-0.10 AbsBaso-0.02
___ 03:25PM BLOOD Glucose-258* UreaN-21* Creat-1.0 Na-139 
K-4.6 Cl-102 HCO3-26 AnGap-11
___ 06:22AM BLOOD ALT-12 AST-11 LD(LDH)-152 AlkPhos-72 
TotBili-<0.2
___ 06:22AM BLOOD Albumin-3.8 Calcium-9.1 Phos-3.9 Mg-1.8
___ 09:36PM BLOOD proBNP-___CUTE RENAL FAILURE 
Presented with CR increased to 1.6 this was likely due to effect 
from recent Bactrim use. This was stopped and he was given 1L 
IVF and Cr returned to normal. On discharge Cr 1.0. 

#Pedal edema 
On admission very mild pedal edema, bilaterally with increased
tenderness which he attributes to recently applied shackles 
while
sectioned for alcohol use disorder. States shackles were on for
about 12 hours and his tenderness and swelling has been there
since. He was started on Bactrim 2 days ago but low suspicion 
for
cellulitis given bilateral with no evidence of infectious
process. Joints don't appear significantly inflamed and his 
pedal
edema is mild at best. There was no evidence of heart failure 
with a negative CXR and BNP which was not elevated. He had 
bilateral ultrasounds which were negative for clot. His 
amlodipine was stopped as this is likely contributing to his 
lower extremity edema. He was given compression stockings. He 
will follow with his PCP. Discussed that if we are stopping 
amlodipine we should likely increase lisinopril. He wanted to 
discuss this with his PCP ___. 

CHRONIC/STABLE PROBLEMS:

#Alcohol use disorder in remission 
not currently on naltrexone per patient

#HTN - Stopped amlodipine and wanted to increase lisinopril. He 
wanted to discuss this with his PCP ___. Made a close follow 
up appointment. 

>30 minutes spent on discharge activity 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lisinopril 10 mg PO DAILY 
2. amLODIPine 10 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Escitalopram Oxalate 10 mg PO DAILY 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. FoLIC Acid 1 mg PO DAILY 
7. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
8. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
9. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
10. Atorvastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Escitalopram Oxalate 10 mg PO DAILY  
4.  FoLIC Acid 1 mg PO DAILY  
5.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
6.  Lisinopril 10 mg PO DAILY  
7.  MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY  
8.  Metoprolol Succinate XL 25 mg PO DAILY  
9.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lower Extremity Edema 
___ 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
you were admitted for acute kidney injury and swelling in your 
feet. 

For your Acute kidney injury it was felt to be due to Bactrim. 
The Bactrim was stopped and your kidney function improved. You 
should have your kidney function rechecked in one week. 

For your swelling you had many tests. You had xray which were 
negative for any acute fracture, you had ultrasound of the veins 
which was negative for blood clot, your liver function and heart 
function was normal. It is likely that your swelling could be 
from chronic venous stasis. You were given compression 
stockings. The swelling could also be due to the amlodipine you 
take. Your amlodipine was stopped and you should discuss your 
blood pressure medications with your primary care doctor on 
follow up. 

It was a pleasure caring for you, 
Your ___ Team 
 
Followup Instructions:
___